US05698691
(7) N-[2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethyl]-N-trifluoroacetylglycine methyl ester
To a solution of N-[2-(2-amino-5-chlorophenyl)-2-(2-chlorophenyl)ethyl]-N-(trifluoroacetyl)glycine methyl ester (0.39 g) in methanol (5 ml) were added acetic acid (0.05 ml) and pivalaldehyde (78 mg). The mixture was stirred for 30 minutes at room temperature, to which was added sodium cyanoborohydride (57 mg). The mixture was stirred for one hour at room temperature, followed by addition of dichloromethane (50 ml) thereto. This solution was washed with a 1N aqueous solution of sodium hydroxide, then with water, followed by distilling off the solvent. The residue was purified by means of a silica-gel column chromatography (hexane:acetic acid ethyl ester=5:1 v/v as an eluent) to give 0.27 g of an oily compound.

reactant | N-[2-(2-amino-5-chlorophenyl)-2-(2-chlorophenyl)ethyl]-N-(trifluoroacetyl)glycine methyl ester | 0.39 g | COC(CN(C(C(F)(F)F)=O)CC(C1=C(C=CC=C1)Cl)C1=C(C=CC(=C1)Cl)N)=O | C19H17Cl2F3N2O3
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
reactant | pivalaldehyde | 78 mg | C(C(C)(C)C)=O | C5H10O
reactant | sodium cyanoborohydride | 57 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethyl]-N-trifluoroacetylglycine methyl ester | 0.27 g | COC(CN(C(C(F)(F)F)=O)CC(C1=C(C=CC=C1)Cl)C1=C(C=CC(=C1)Cl)NCC(C)(C)C)=O | C24H27Cl2F3N2O3
